US07601716B2
5-[1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-pyridine-2-carbonitrile
1-(2,5-Difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (1.0 g) was reacted with 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine-2-carbonitrile as in General Procedure 4A to give the title compound as a bright yellow solid (24% yield). M.p. 200° C. (dec), LCMS: m/z=364.53 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.46-3.52 (m, 2H), 3.62-3.72 (m, 2H), 4.50 (s, 2H), 5.12 (s, 1H), 6.70 (s, 1H), 6.92-7.00 (m, 2H), 7.03-7.12 (m, 1H), 7.62-7.69 (m, 2H), 7.67 (s, J=3.0 Hz, 1H), 7.75 (m, 1H), 8.73 (d, J=1.5 Hz, 1H).

reactant | 1-(2,5-Difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 1.0 g | FC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)F | C14H12F2IN3
reactant | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C#N)C | C12H15BN2O2
product | 5-[1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-pyridine-2-carbonitrile | 24% yield | FC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=CC(=NC3)C#N)C=C(C=C1)F | C20H15F2N5
